* Transient — 56G NRZ PRBS9 differential stimulus (100 mVpp,diff)
.include params.inc
.include {DUT_CIR}
.include prbs_stim.inc

Vdd vdd 0 dc {VDD}
XU1 outp outn inp inn vdd ctle_dut

Cload_p outp 0 {CL}
Cload_n outn 0 {CL}

.options gmin=1e-18 abstol=1e-15 reltol=1e-3
.nodeset v(xu1.mgate)={MOS_VGS} v(xu1.em)=0.28 v(xu1.e1)=0.28 v(xu1.e2)=0.28

.control
save v(outp) v(outn) v(inp) v(inn)
save @q.xu1.xq1.qnpn13g2[ic] @q.xu1.xq2.qnpn13g2[ic]
save @n.xu1.xtail.nsg13_lv_nmos[ids] @n.xu1.xmdiode.nsg13_lv_nmos[ids]
tran 0.5p {TMAX} 0 1p
set wr_singlescale
wrdata tran.raw time v(outp) v(outn) v(inp) v(inn)
.endc
.end
